US08013156B2
1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid (7.99 g, 32 mmol), pyridin-4-yl-methanol (7.39 g, 68 mmol) and a solution of 1M potassium tert-butyl butoxide in tert-butyl alcohol (100 mL, 100 mmol) were combined and stirred at room temperature overnight. The reaction mixture is diluted with H2O (500 mL) and washed with EtOAc (3×). The aqueous phase is concentrated to ˜250 mL and acidified to pH 5-6 with conc'd HCl. The resulting solids are filtered, washed with H2O and dried under high vacuum to give 6.04 g (59%) of 1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid. 1H NMR (DMSO-d6) 8.57 (d, 2H), 7.41 (d, 2H), 5.51 (s, 2H), 4.03 (m, 2H), 3.00 (m, 2H), 2.46 (m, 1H), 1.91 (m, 2H), 1.63 (m, 2H) ppm. LC-MS (M−)=319.

reactant | 1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid | 32 mmol, 7.99 g | ClC=1C(=NSN1)N1CCC(CC1)C(=O)O | C8H10ClN3O2S
reactant | pyridin-4-yl-methanol | 68 mmol, 7.39 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | potassium tert-butyl butoxide | 1M | C(C)(C)(C)C([O-])CCC.[K+]
reactant | tert-butyl alcohol | 100 mmol, 100 mL | C(C)(C)(C)O | C4H10O
solvent | H2O | 500 mL | O | H2O
product | 1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid | 6.04 g, 59% | N1=CC=C(C=C1)COC=1C(=NSN1)N1CCC(CC1)C(=O)O | C14H16N4O3S
